US08912221B2
Step A: 2-Bromo-4-chloro-6-fluoro-benzaldehyde
To a solution of 1,2-dibromo-5-chloro-3-fluoro-benzene (10 g, 34.68 mmol) in heptane (27 ml) was added THF (44 ml) and the mixture was cooled to −45° C. Then iPrMgCl (38.14 ml, 38.14 mmol, 1M solution in THF) was added dropwise to the reaction mixture maintaining the temperature between −40° C. to −45° C. The mixture was stirred for 30 minutes at −40° C. before DMF (13.4 ml, 173.4 mmol) was added dropwise to the reaction mixture maintaining the temperature between −45° C. to −20° C. After stirring for another 15 minutes at −20° C., the reaction mixture was poured into a mixture of 2N HCl (20 ml) and ether (50 ml) at 0° C. The organic layer was separated and the aqueous layer was extracted two times with ether. The combined organic layers were dried with Na2SO4 and evaporated in vacuo to obtain the title compound as yellow solid (7.8 g, 95%).

reactant | 1,2-dibromo-5-chloro-3-fluoro-benzene | 34.68 mmol, 10 g | BrC1=C(C(=CC(=C1)Cl)F)Br | C6H2Br2ClF
reactant | iPrMgCl | 38.14 mmol, 1M, 38.14 ml | C(C)(C)[Mg]Cl
reactant | DMF | 173.4 mmol, 13.4 ml | CN(C)C=O | C3H7NO
reactant | HCl | 2N, 20 ml | Cl | ClH
solvent | heptane | 27 ml | CCCCCCC | C7H16
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 44 ml | C1CCOC1 | C4H8O
product | 2-Bromo-4-chloro-6-fluoro-benzaldehyde | 7.8 g, 95% | BrC1=C(C=O)C(=CC(=C1)Cl)F | C7H3BrClFO
